US08455483B2
To a solution of 3-(2-chloro-3-((4-(2-ethylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenethoxy)propanoic acid (9.8 g) in DCM (100 mL) was added Hunig's Base (9.58 mL). The reaction was stirred for 10 mins before the addition of N-(2,2-dimethoxyethyl)cyclopentanamine (4.12 g) followed by HATU (7.65 g). After 1 h, the reaction mixture was diluted with DCM (200 mL) and washed with saturated sodium bicarbonate (300 mL) followed by water (300 mL). The DCM solution was dried over Na2SO4, filtered and evaporated in vacuo. The crude product was purified by silica chromatography, eluting with 2 to 5% 7N/NH3/methanol in dichloromethane to afford 3-(2-chloro-3-((4-(2-ethylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenethoxy)-N-cyclopentyl-N-(2,2-dimethoxyethyl)propanamide (12.0 g) as a pale yellow gum.

reactant | 3-(2-chloro-3-((4-(2-ethylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenethoxy)propanoic acid | 9.8 g | ClC1=C(CCOCCC(=O)O)C=CC=C1CN1CCC2(CN(CCO2)C(=O)C=2N=C(SC2)CC)CC1 | C26H34ClN3O5S
reactant | Hunig's Base | 9.58 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(2,2-dimethoxyethyl)cyclopentanamine | 4.12 g | COC(CNC1CCCC1)OC | C9H19NO2
reactant | HATU | 7.65 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-chloro-3-((4-(2-ethylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenethoxy)-N-cyclopentyl-N-(2,2-dimethoxyethyl)propanamide | 12.0 g | ClC1=C(CCOCCC(=O)N(CC(OC)OC)C2CCCC2)C=CC=C1CN1CCC2(CN(CCO2)C(=O)C=2N=C(SC2)CC)CC1 | C35H51ClN4O6S
